US08008293B2
Synthesis of (2R,5S)-5-(4-fluorophenyl)pyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-ethyl ester
A dimethylformamide (30 mL) solution containing (2R,5S)-5-(4-fluorophenyl)pyrrolidine-2-carboxylic acid ethyl ester (3.11 g), triethylamine (2.91 mL), and di-t-butyl dicarbonate (3.72 g) was stirred for 13 hours at room temperature. Imidazole (446 mg) was added to the reaction mixture, and stirring was continued for 30 minutes at room temperature, and the solvent was removed under a vacuum. Ethyl acetate was added to the residue, and the resultant was washed with 0.1 N hydrochloric acid, saturated sodium bicarbonate aqueous solution, brine, in sequence. The organic layer was dried over anhydrous magnesium sulfate. The solvent was removed under a vacuum, and the title compound (4.42 g) was obtained. The physical property values are as follows.

reactant | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | (2R,5S)-5-(4-fluorophenyl)pyrrolidine-2-carboxylic acid ethyl ester | 3.11 g | C(C)OC(=O)[C@@H]1N[C@@H](CC1)C1=CC=C(C=C1)F | C13H16FNO2
reactant | di-t-butyl dicarbonate | 3.72 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Imidazole | 446 mg | N1C=NC=C1 | C3H4N2
solvent | triethylamine | 2.91 mL | C(C)N(CC)CC | C6H15N
product | (2R,5S)-5-(4-fluorophenyl)pyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-ethyl ester | 4.42 g | CCOC(=O)[C@@H]1N([C@@H](CC1)C1=CC=C(C=C1)F)C(=O)OC(C)(C)C | C18H24FNO4
